US05356882
2'-Deoxy-5-ethyl-4'thiouridine
Benzyl 3,5-di-O-benzyl-2-deoxy-1,4-dithio-D-erythropentofuranoside (5.6 mmol) was dissolved in CCl4 (30 ml) and bromine (6.2 mmol) in CCl4 (30 ml) was added. After stirring for 5 min. at ambient temperature the solvent was evaporated and the residue re-evaporated from CCl4 (10 ml) to remove excess bromine. To a solution of this crude 1-bromothiosugar in CCl4 (15 ml) was added bis-O-trimethylsilyl-5ethyl uracil (16.6 mmol) [prepared by refluxing 5-ethyluracil (16.6 mmol) in a mixture of hexamethyldisilazane (50 ml) and chlorotrimethylsilane (5 ml) for 2 h., and evaporation of the solvents], HgBr2 (1.99 g; 5.5 mmol) and CdCO3 (2.36 g; 16.6 mmol). The solvent was evaporated and the residue heated at 100° C. for 1 h. The residue was worked up as for the thymidine analogue and the product purified by column chromatography. The benzyl ether protecting groups were removed by treatment with BCl3 as described for the 5-iodo analogue.

reactant | Benzyl 3,5-di-O-benzyl-2-deoxy-1,4-dithio-D-erythropentofuranoside | 5.6 mmol | C(C1=CC=CC=C1)O[C@H]1CC(SCC2=CC=CC=C2)S[C@@H]1COCC1=CC=CC=C1 | C26H28O2S2
reactant | bromine | 6.2 mmol | BrBr | Br2
reactant | 5-ethyluracil | 16.6 mmol | C(C)C=1C(NC(NC1)=O)=O | C6H8N2O2
solvent | CCl4 | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 15 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | hexamethyldisilazane | 50 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | chlorotrimethylsilane | 5 ml | Cl[Si](C)(C)C | C3H9ClSi
catalyst | HgBr2 | 5.5 mmol, 1.99 g | [Hg](Br)Br
product | 2'-Deoxy-5-ethyl-4'thiouridine | C(C)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)S2)C1)=O)=O | C11H16N2O4S
